US06177422B1
Preparation of 4-[4-(methylphenyl)-piperazin-1-ylmethyl]-2-nitro-phenol
Sodium triacetoxyborohydride (1.8 g, 8.4 mmol) is added to a solution of 4-hydroxy-3-nitro-benzaldehyde (1.3 g, 8.0 mmol) and 1-(4-methyl-phenyl)-piperazine (2.8 g, 16.1 mmol) in 50 mL of THF at room temperature, and the mixture is stirred overnight. The reaction is quenched by pouring into 400 mL of water, and the precipitate which forms is collected by filtration. Yield=1.7 g (33%) of 4-[4-(methylphenyl)-piperazin-1-ylmethyl]-2-nitro-phenol oil.

reactant | Sodium triacetoxyborohydride | 8.4 mmol, 1.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-hydroxy-3-nitro-benzaldehyde | 8.0 mmol, 1.3 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | 1-(4-methyl-phenyl)-piperazine | 16.1 mmol, 2.8 g | CC1=CC=C(C=C1)N1CCNCC1 | C11H16N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-[4-(methylphenyl)-piperazin-1-ylmethyl]-2-nitro-phenol | CC1=C(C=CC=C1)N1CCN(CC1)CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C18H21N3O3
